US05316755
(E)-1-(2,4,6-triiodophenoxy)-3,7-dimethyl-2,6-octadiene
A mixture of triiodophenol (10.0 g, 21.2 mmol), milled potassium carbonate (3.1 g, 22.5 mmol, 1.06 eq) and geranyl bromide (4.0 ml, 20.2 mmol) in dimethyl formamide (25 ml) was heated to 50° C. for 2 hrs and cooled. The mixture was poured into 300 ml of water and extracted with ethyl acetate. The ethyl acetate extract was filtered through a short pad of silica gel, then alumina, eluting with ethyl acetate-hexanes (1:1). The eluent was concentrated under high vacuum to give the product in 87% yield as an oil.

reactant | triiodophenol | 21.2 mmol, 10.0 g | C=1C(=CC(=C(C1I)O)I)I | C6H3I3O
reactant | potassium carbonate | 22.5 mmol, 3.1 g, 1.06 eq | C([O-])([O-])=O.[K+].[K+]
reactant | geranyl bromide | 20.2 mmol, 4.0 ml | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | water | 300 ml | O | H2O
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
product | (E)-1-(2,4,6-triiodophenoxy)-3,7-dimethyl-2,6-octadiene | 87% yield | IC1=C(OC\C=C(\CCC=C(C)C)/C)C(=CC(=C1)I)I | C16H19I3O
